US07842685B2
n-Butyllithium (2.5 M in hexanes, 1.80 mL, 4.50 mmol) was added to a suspension of methyltriphenylphosphonium bromide (1.78 g, 5.00 mmol) in THF (10 mL) at −78° C. and the mixture was warmed to 0° C. over 30 min. The suspension (1 mL, about 3 equiv Wittig reagent) was added to a suspension of (2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-benzo[d]thiazol-6-yl)(pyridine-2-yl)methanone (0.09 g, 0.21 mmol) in THF (1 mL) and the mixture was stirred for 16 h at RT. The solvent was remove under vacuum and the resulting oil was purified by silica gel chromatography to give 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-6-(1-(pyridin-2-yl)vinyl)benzo[d]thiazole as a white solid. MS (ESI) m/z: Calculated: 418.1; Observed: 419.1 (M++1).

reactant | n-Butyllithium | 4.50 mmol, 2.5 M, 1.80 mL | C(CCC)[Li]
reactant | (2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-benzo[d]thiazol-6-yl)(pyridine-2-yl)methanone | 0.21 mmol, 0.09 g | O1C(OCCC1)C1=CC(=C(C=C1)C=1SC2=C(N1)C=CC(=C2)C(=O)C2=NC=CC=C2)F | C23H17FN2O3S
catalyst | methyltriphenylphosphonium bromide | 5.00 mmol, 1.78 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-6-(1-(pyridin-2-yl)vinyl)benzo[d]thiazole | O1C(OCCC1)C1=CC(=C(C=C1)C=1SC2=C(N1)C=CC(=C2)C(=C)C2=NC=CC=C2)F | C24H19FN2O2S
